US04093734
468 gm of N-ethoxycarbonyl-3-chloro-anthranilic acid (m.p. 111°-114° C) were refluxed in 1500 ml of dioxane with 420 ml of thionyl chloride for 3 hours while stirring. Thereafter, the reaction solution was evaporated in vacuo until crystallization started, and then cooled. The precipitate was collected by suction filtration and washed with ether. 8-Chloro-2H-3,1-benzoxazine-2,4(1H)-dione, m.p. 225°-230° C, was obtained.

reactant | N-ethoxycarbonyl-3-chloro-anthranilic acid | 468 gm | C(C)OC(=O)NC=1C(C(=O)O)=CC=CC1Cl | C10H10ClNO4
reactant | thionyl chloride | 420 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dioxane | 1500 ml | O1CCOCC1 | C4H8O2
product | 8-Chloro-2H-3,1-benzoxazine-2,4(1H)-dione | ClC1=CC=CC=2C(OC(NC21)=O)=O | C8H4ClNO3
